US04814337
In 150 ml of formic acid, a reaction of 19.0 g of 2,4,5-triiodopyrimidine and 5.0 g of potassium thiocyanate was conducted at room temperature (20° C.) for 3 hours in a similar manner as Synthesis Example 1. Then, the reaction mixture was treated in a similar procedure as Synthesis Example 1, there was obtained a 84.7% yield of 2,5-diiodo-4-thiocyanopyrimidine, m.p. 183°-185° C.

reactant | 2,4,5-triiodopyrimidine | 19.0 g | IC1=NC=C(C(=N1)I)I | C4HI3N2
reactant | potassium thiocyanate | 5.0 g | [S-]C#N.[K+]
solvent | formic acid | 150 ml | C(=O)O | CH2O2
product | 2,5-diiodo-4-thiocyanopyrimidine | 84.7% yield | IC1=NC=C(C(=N1)SC#N)I | C5HI2N3S
